* C:\Users\Gonzalo\Desktop\Gonzalo\GitHub\TProfesional_EEG\LTSpice_projects\Draft1.asc
V1 N003 0 SINE(0 2 1k)
V2 N005 0 SINE(0 3 1k)
R1 N002 N006 5K
R2 N006 N007 100
R3 N007 0 5k
R4 N004 N005 1k
R5 N001 N003 1k
R6 N002 N001 1k
R7 0 N004 1k
XU1 N004 N001 V+ V- N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V3 V+ 0 5
V4 0 V- 5
.tran 0.01
.lib UniversalOpAmp1.lib
.backanno
.end
