* C:\Users\Gonzalo\Desktop\Gonzalo\GitHub\TProfesional_EEG\LTSpice_projects\Test INPUT EEG - Output DACs\Draft1.asc
C1 N001 0 100n
R1 P001 N001 500
V1 P001 0 3.3
R2 N001 0 500Meg
XU1 N001 0 N001 LT1009
V2 N001 0 5
.tran 0 1 0.01n 0.01m
.lib LTC3.lib
.backanno
.end
